US09302988B2
Step 5: 1-Benzyl-3-(4-chloro-2-fluorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid (ACI-04)
To a mixture of ethyl 1-benzyl-3-(4-chloro-2-fluorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate (1.55 g, 3.5 mmol) in H2O (20 mL) and EtOH (20 mL) was added NaOH (2.82 g, 71 mmol) and the mixture stirred at reflux for 2 h. The reaction mixture cooled to room temperature and concentrated. The reaction mixture was acidified using aqueous 5N HCl and the solids which had been formed were filtered off to give 1.45 g (100%) of ACI-04 as an off white solid.

reactant | ethyl 1-benzyl-3-(4-chloro-2-fluorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylate | 3.5 mmol, 1.55 g | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)C1=C(C=C(C=C1)Cl)F)C(=O)OCC | C22H18ClF4NO2
reactant | NaOH | 71 mmol, 2.82 g | [OH-].[Na+]
solvent | H2O | 20 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1-Benzyl-3-(4-chloro-2-fluorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)C1=C(C=C(C=C1)Cl)F)C(=O)O | C20H14ClF4NO2
